US05670452
Preparation of 4-methoxy-1-methyl-1H-indazole-3-sulfonamide (Intermediate No. 65)
A solution containing 5 g (21.8 mmol) of 4-fluoro-1-methyl-1H-indazole-3-sulfonamide and 12.6 g of sodium methoxide (a 28% methanol solution) (65 mmol) in DMSO (50 ml), was stirred at 130° C. for one hour. After confirming the disappearance of the starting material by thin layer chromatography (TLC), the mixture was poured into ice water and acidified with citric acid. Formed crystals were collected by filtration and washed with water and IPE to obtain 3.2 g (yield: 60.9%) of the desired product. Melting point: 268°-270° C.

reactant | 4-fluoro-1-methyl-1H-indazole-3-sulfonamide | 21.8 mmol, 5 g | FC1=C2C(=NN(C2=CC=C1)C)S(=O)(=O)N | C8H8FN3O2S
reactant | sodium methoxide | 12.6 g | C[O-].[Na+]
reactant | methanol | CO | CH4O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 4-methoxy-1-methyl-1H-indazole-3-sulfonamide | 3.2 g, yield: 60.9% | COC1=C2C(=NN(C2=CC=C1)C)S(=O)(=O)N | C9H11N3O3S
